Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
   

  
___ ___ ___  
    Note History     

 

Note contains an addendum. See bottom.  

Note Date: ___  Time: 2106
Note Type: Initial note
Note Title: Medicine Admission Note
Signed by ___, MD on ___ at 9:07 pm  Affiliation: 
___
Cosigned by ___, MD on ___ at 2:47 pm
 
============================================================
MEDICINE ADMISSION NOTE  
Date of admission:  ___
============================================================

PRIMARY CARE PHYSICIAN: ___
  
CHIEF COMPLAINT: fall 
 
HISTORY OF PRESENT ILLNESS:  This is a ___ female 
history
of CVA, prior PE on apixaban who presents from her rehab after 
an
unwitnessed fall. She was recently discharged from ___ after
being admitted from ___. During this admission she
presented with respiratory failure and ultimately required
tracheostomy placement ___. She also began treatment for VAP 
on
___ with ceftazidime (Day 14: ___. She was on a heparin gtt
during admission for treated of history of DVT/PE but developed
an RP bleed and underwent successful embolization. She was
discharged with Hb of 8.2. She was having myoclonic jerks
suggestive of TME, found on EEG to be in non-convulsive status.
Neurology was consulted and titrated anti-epileptic medications
in combination until the patient was no longer seizing. She was
then maintained on lacosamide 200 mg BID & 
levetiracetam 1500 mg BID. She also had a Dobhoff placed for
initiation of tube feeds during this admission.  

Per report from the rehab facility as patient is a poor 
historian
and nonverbal at baseline patient was seemed apparently somewhat
agitated and seemed uncomfortable throughout the course of the
day. She was given Dilaudid overnight and sometime in the early
morning she had an unwitnessed fall from her bed to the floor 
and
was found face down on floor. Per report her baseline mental
status is that she is able to nod yes or no.

In the ED she had a trauma workup that was unremarkable. Her
imaging showed improving retroperitoneal hematomas. 

In the ED, initial vitals: 100.8F, HR 112, BP 125/80, RR 18, 99%
on RA

- Exam notable for:  trach in place with c-collar, dobhoff in
place, no obvious external signs of trauma, rhonchus breath
sounds bilaterally, sacral pressure ulcer

- Labs notable for:  WBC 16.8, Hb 8.1, UA with >182 WBC, Mod
bacteria, negative nitrites, 7 epis, normal lactate, Na 149 

- Imaging notable for: negative trauma imaging, improvement in
retroperitoneal hematomas, LUL pneumonia 

- Pt given: vanc and zosyn 

- Vitals prior to transfer: 98.2F, HR 113, BP115/58, RR21, 100%
TC 
 
On the floor,  patient unable to provide significant additional
history. She can nod her head yes/no to questions. Denies chest
pain, shortness or breath, dizziness, head pain. Does indicate
she is in pain but cannot specify where.  

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
- h/o HTN and DMII, resolved after gastric bypass per patient   
- s/p cholecystectomy and gastric bypass (___), with f/u 
complicated by multiple ex lap, gastrectomy, reversal surgery, 
failed J-tube c/b colonic perforation  
- multiple SBO during f/u from above  
- hernia repair  
- chronic abdominal pain, peptic ulcer disease   
- asthma, stroke (left sided), osteoarthritis, GERD, DVT/PE    
- narcotic abuse, tobacco abuse   
- depression, anxiety   
- muscle weakness / myelopathy, chronic low back pain    
- vulvar folliculitis  
- arthorplasty - right total knee    
- hepatitis C - positive ab test, negative HCV viral load in 2x 
tests  
- nephrolithiasis  
- thyromegaly - TSH wnl, low free T4  

 
Social History:
___
Family History:
Mother with diabetes and HTN. Brother with CHF
 
Physical Exam:
Admission Exam:
=================
VITALS:  100.2F 116/74 ___ on 35%TM  
GENERAL: Patient non-verbal, able to follow commands and nod 
head
yes/no to questions, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes.
NECK: Trach in place, thick yellow secretions present 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. Upper airway sounds 
transmitted
across lung fields bilaterally. 
ABDOMEN: Surgical scars present, soft, mildly tender diffusely 
to
palpation, bowel sounds present, no rebound tenderness or
guarding, no organomegaly    
EXTREMITIES: No edema. 
NEUROLOGIC: Able to lift both UE off the bed. Wiggles toes
bilaterally. 

Discharge Exam:
=================
___ 1520 Temp: 98.5 BP: 127/85 L Lying HR: 104 RR: 20 O2
sat: 100% O2 delivery: 35%  Tm  
GENERAL: NAD 
HEENT: NC/AT, PEERL, EOMI intact, anicteric 
NECK: supple, trach, copious white/yellow secretions
CARDIAC: RRR, S1/S2, no m/r/g
LUNGS: unlabored, transmitted upper airway sounds
GI: surgical scars, soft, normoactive, non-distended, mild
diffuse tenderness, no rebound or guarding  
EXT: WWP, minor swelling on dorsum of right hand
NEUROLOGIC: awake, alert, attentive, nob-verbal but interactive,
following simple commands, moving all extremities 
 
Pertinent Results:
Admission Labs:
================

___ 10:23AM BLOOD WBC-16.8* RBC-2.66* Hgb-8.1* Hct-27.0* 
MCV-102* MCH-30.5 MCHC-30.0* RDW-20.2* RDWSD-73.8* Plt ___
___ 10:23AM BLOOD Neuts-89.4* Lymphs-6.1* Monos-2.8* 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-14.99*# AbsLymp-1.03* 
AbsMono-0.47 AbsEos-0.12 AbsBaso-0.03
___ 10:23AM BLOOD Glucose-106* UreaN-17 Creat-0.3* Na-149* 
K-3.3 Cl-108 HCO3-29 AnGap-12
___ 06:12AM BLOOD ALT-62* AST-49* LD(LDH)-407* AlkPhos-94 
TotBili-0.3
___ 10:23AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.8
___ 10:39AM BLOOD Lactate-1.3

Microbiology:
================
___: Stool: c. diff negative
___: MRSA nasal swab negative
___ 9:58 pm SPUTUM      Source: Endotracheal RT. VW. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora QUANTITATION NOT AVAILABLE. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
      ESCHERICHIA COLI.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------             =>32 R
AMPICILLIN/SULBACTAM--             =>32 R
CEFAZOLIN-------------             =>64 R
CEFEPIME--------------     8 S          R
CEFTAZIDIME-----------     4 S      <=1 S
CEFTRIAXONE-----------                8 R
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------     1 S   <=0.25 S
PIPERACILLIN/TAZO-----     8 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----             =>16 R

___: urine culture < 10,000 CFU, no organism identified
___: blood culture ___ set no growth to date
___: blood culture ___ set no growth to date

Imaging:
=========
___ CT torso:
IMPRESSION: 
1. There are multiple low and mixed density fluid collections: 
Partially rim enhancing centrally low attenuation left 
retroperitoneal fluid collection measuring 5.7 x 8.4 cm, an 
mixed density fluid collection abutting the left iliacus 
measuring 2.2 x 4.4 cm, bilateral intramuscular rim enhancing 
mixed density fluid collections in the left and right psoas 
muscle measuring 2.5 x 3.0 and 3.3 x 2.3 cm, respectively.  
These correspond to hematomas further characterized on CTA 
abdomen pelvis ___.  Of note, each of these 4 
collections are smaller in size and lower in density as compared 
to ___ and compatible with expected evolution of 
hematomas.  There is no evidence of new or worsening hematoma. 
2. ___ opacities and ground-glass opacities in the left 
upper lobe 
likely represent infection. 

___ CT head:
IMPRESSION: 
1. No intracranial hemorrhage or other acute intracranial 
abnormality on 
noncontrast head CT. 
2. Additional findings described above. 

___ CT c-spine:
IMPRESSION: 
1. No fracture or malalignment. 
2. Additional findings described above. 

___ XR L femur:
IMPRESSION:  
Slightly limited assessment of the left hip due to overlying 
external 
radiopaque contrast.  No acute fracture or dislocation. 

___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of moderate continuous focal slowing in the left 
temporal region, as well as mild nearly continuous focal slowing 
in the right temporal region. These findings indicate of focal 
cerebral dysfunction, possibly structural in origin, in both 
temporal regions, worse on the left. Diffuse background slowing 
and slow posterior dominant rhythm indicate mild diffuse 
cerebral dysfunction, which is nonspecific as to etiology. No 
epileptiform discharges or electrographic seizures are present. 
Two clinical episodes of apparent shivering had no ictal EEG 
change, but did show abundant EMG and shivering artifact. 
Compared to the prior day's EEG recording, there is no 
significant change. 

Discharge Labs:
================
___ 06:00AM BLOOD WBC-11.5* RBC-2.53* Hgb-7.7* Hct-25.3* 
MCV-100* MCH-30.4 MCHC-30.4* RDW-19.5* RDWSD-70.6* Plt ___
___ 06:00AM BLOOD Glucose-104* UreaN-11 Creat-0.2* Na-140 
K-3.3 Cl-103 HCO3-26 AnGap-11
___ 06:30AM BLOOD ALT-42* AST-28 AlkPhos-83 TotBili-0.2
___ 06:00AM BLOOD Calcium-8.6 Phos-3.2 Mg-1.5*
 
Brief Hospital Course:
___ female with h/o morbid obesity s/p RYGB (Billroth II 
anatomy now), DVT/PE (on apixaban), CVA, chronic pain syndrome 
(on methadone), and recent prolonged hospitalization for acute 
hypoxic respiratory failure ___ VAP s/p trach and RP bleed s/p 
___ embolization re-admitted one day after discharge after 
unwitnessed fall

ACTIVE ISSUES:
#) Sepsis
#) Pseudomonal VAP
SIRS ___, QSOFA ___ for possible encephalopathy. Discharged on
ceftazidime for planned 2-week course (end date = ___. Now 
with
LUL ___ opacities and ground-glass opacities on CT, in
keeping with known Pseudomonal pneumonia. Repeat sputum culture 
growing pseudomonas and e.coli, with negative MRSA screen. 
Initially treated with vancomycin/ceftazadime/metronidazole, but 
dc'd vancomycin on ___ and dc'd metronidazole on ___. She should 
continue 14 day course for pseudomonas VAP with ceftazadime 
(end: ___. 

#) Leukocytosis: Admission WBC 16.8 from 10.2 on ___. Uptrend 
either from VAP (antibiotics started ___ or in setting of 
fall. Downtrending to 11.5 on ___. Other work-up included 
c.diff (neg) and urine culture with < 10,000 CFU with no 
organism identified.

#) Encephalopathy: Initially with purported deviation from 
baseline, per
daughter. Given history of non-convulsive status 
epilepticus,obtained continuous video EEG for 3 days which did 
not show any evidence of seizure. Continued home Keppra and 
lacosamide. Patient required mitts for first 2 days of 
admission, but mental status did improve and these were 
discontinued. 

#) Fall, unwitnessed: trauma survey negative. 

CHRONIC/STABLE ISSUES:
#) Chronic respiratory failure: ___ VAP s/p trach. Continued
humidified O2 via trach collar and wean as tolerated.

#) h/o RP bleed: CT with interval improvement. Subtle decline in
all cell lines. Apixaban was continued with no evidence of 
bleeding.

#) DVT/PE: continue home apixaban 5 mg BID with mindfulness of 
RP
bleed. 

#) Hypotension: normotensive at present. Indication for 
midodrine
10 mg TID uncertain; normotensive since admission. Midodrine was 
dc'd.

#) Severe protein-calorie malnutrition: on background
post-surgical anatomy with probable poor absorption. Continue
tube feeds and vitamins per nutrition via NGT. 
Tube feeds: Vital High protein 60cc/hr. Free water flush 200cc 
q4h.

#) Chronic pain syndrome, abdominal: complicated by substance 
use
disorder. Home methadone 20 TID dc'd last admission on ___. 
We resumed methadone 5 mg BID. 

TRANSITIONAL ISSUES:
[ ] continue ceftazadime 2g IV q8h thru ___ for pseudomonas 
ventilator associated pneumonia
[ ] Recommend sitter given her fall risk, until she demonstrates 
stable mental status
[ ] consider checking zinc level and discontinue supplement if 
not deficient

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 

#Code status: Full
#Health care proxy/emergency contact: ___ (mother) 
___
alternate would be daughter ___ ___. Sister
___ ___. Daughter ___ (RN) 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Apixaban 5 mg PO BID 
3. Ascorbic Acid ___ mg PO DAILY 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
6. FoLIC Acid 1 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. CefTAZidime 2 g IV Q12H 
12. LACOSamide 200 mg PO BID 
13. Multivitamins W/minerals Liquid 15 mL PO DAILY 
14. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
15. LevETIRAcetam 1500 mg PO Q12H 
16. Midodrine 10 mg PO TID 
17. Niacin 100 mg PO QID 
18. Zinc Sulfate 220 mg PO DAILY 
19. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
20. Sucralfate 1 gm PO QID:PRN GI upset 
21. Ranitidine 150 mg PO DAILY 
22. Promethazine 6.25 mg PO BID:PRN nausea 
23. Ferrous Sulfate 325 mg PO DAILY 
24. Lactulose 15 mL PO BID:PRN constipation 
25. Methadone 20 mg PO TID 
26. QUEtiapine Fumarate 25 mg PO QHS 
27. OxycoDONE Liquid 5 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  GuaiFENesin ___ mL PO Q6H:PRN thick mucus  
2.  CefTAZidime 2 g IV Q8H  
3.  Methadone 5 mg PO BID  
4.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
5.  Apixaban 5 mg PO BID  
6.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  Cyanocobalamin 100 mcg PO DAILY  
9.  Docusate Sodium 100 mg PO BID:PRN constipation  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  FoLIC Acid 1 mg PO DAILY  
12.  LACOSamide 200 mg PO BID  
13.  Lactulose 15 mL PO BID:PRN constipation  
14.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
15.  LevETIRAcetam 1500 mg PO Q12H  
16.  Multivitamins W/minerals Liquid 15 mL PO DAILY  
17.  Niacin 100 mg PO QID  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
19.  QUEtiapine Fumarate 25 mg PO QHS  
20.  Ranitidine 150 mg PO DAILY  
21.  Senna 8.6 mg PO BID:PRN constipation  
22.  Sucralfate 1 gm PO QID:PRN GI upset  
23.  Thiamine 100 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  
25.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Fall
- Ventilator Associated Pneumonia

Secondary Diagnosis:
- Hypernatremia
- Toxic metabolic encephalopathy
- Pulmonary Embolism, chronic
- Chronic pain syndrome, abdominal

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___:

It was a pleasure caring for you at ___.

WHY DID I COME TO THE HOSPITAL?
- you came because you fell at your nursing facility

WHAT DID YOU WE FOR YOU?
- We scanned your head and body and did not find any bleeding or 
fractures
- We monitored you on EEG for any evidence of seizures. You did 
not show evidence of seizures.
- We continued treating your pneumonia with antibiotics. 

WHAT SHOULD I DO WHEN I RETURN TO REHAB:
- Please continue participating in rehab services
- Follow instructions of your doctors and ___
- ___ all follow-up appointment and all prescribed 
medications

We wish you the best!

Your ___ care team
 
Followup Instructions:
___